US08293753B2
Step 1.9: (2S,3R)-3-Methyl-1-((S)-1-phenyl-ethyl)-pyrrolidine-2-carboxylic acid amide
Trimethylaluminum in toluene (2 M, 6.46 mmol) was added dropwise to a mixture of NH4Cl (6.47 mmol) in toluene (3.2 mL) at 0° C. with the formation of methane gas. The reaction mixture was allowed to warm to rt, stirred for a further 15 min and then slowly treated with (2S,3R)-3-methyl-1-((S)-1-phenyl-ethyl)-pyrrolidine-2-carboxylic acid methyl ester (prepared as described in Tet. Lett. 1997, 38, 85-88) (6.47 mmol). After stirring for 56 h, the mixture was cooled to 0° C., quenched with 1M HCl and then washed with CH2Cl2 (3×). The aqueous phase was basified with a saturated solution of NaHCO3 and extracted with CH2Cl2 (3×). The combined organic layers were dried (Na2SO4), filtered and concentrated. The residue was purified using a RediSep® silica gel column to afford the title compound as a colorless oil. ESI-MS: [M+H]+ 233; HPLC: tR 2.35 min (method A).

reactant | Trimethylaluminum | C[Al](C)C
reactant | NH4Cl | 6.47 mmol | [NH4+].[Cl-]
reactant | methane | C | CH4
reactant | (2S,3R)-3-methyl-1-((S)-1-phenyl-ethyl)-pyrrolidine-2-carboxylic acid methyl ester | 6.47 mmol | COC(=O)[C@H]1N(CC[C@H]1C)[C@@H](C)C1=CC=CC=C1 | C15H21NO2
solvent | toluene | 3.2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6.46 mmol, 2 M | C1(=CC=CC=C1)C | C7H8
product | (2S,3R)-3-Methyl-1-((S)-1-phenyl-ethyl)-pyrrolidine-2-carboxylic acid amide | C[C@H]1[C@H](N(CC1)[C@@H](C)C1=CC=CC=C1)C(=O)N | C14H20N2O
